US08232294B2
Step 2) benzyl 3-(tetrahydro-2H-pyran-2-yloxy)propanoate
To a mixture of benzyl 3-hydroxypropanoate (2.041 g, 11.34 mmol) and DHP (1.428 g, 17.01 mmol, Alfa) in 30 mL of dichloromethane was added PPTS (0.283 g, 1.13 mmol, Aldrich) slowly. After stirring at 40° C. for 3 days, the reaction mixture was concentrated in vacuo, and the residue was purified by a silica gel column chromatography (PE: EtOAc=20:1) to afford the title compound as pale yellow oil (2.64 g, 88.3%).

reactant | benzyl 3-hydroxypropanoate | 11.34 mmol, 2.041 g | OCCC(=O)OCC1=CC=CC=C1 | C10H12O3
reactant | DHP | 17.01 mmol, 1.428 g | C1CC=COC1 | C5H8O
reactant | PPTS | 1.13 mmol, 0.283 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | benzyl 3-(tetrahydro-2H-pyran-2-yloxy)propanoate | 2.64 g, 88.3% | O1C(CCCC1)OCCC(=O)OCC1=CC=CC=C1 | C15H20O4
